* coarse_tb.spice -- the coarse loop on its own, with vctrl driven by hand.
*
* No ring and no CDR here: vctrl is a PWL that plays the part the closed loop
* would.  That is the point of running it this way.  A closed-loop transient
* long enough to contain a real acquisition -- tens of microseconds -- would
* cost hours on this machine, and it would confound every question with every
* other.  This deck answers them one at a time in a few seconds each:
*
*   1. does the retrace self-start from a cold 0 V capacitor, and where does it
*      park?  (it must park at the SLOW end, or the search starts in the wrong
*      place)
*   2. with vctrl railed high, does vcoarse ramp at the designed rate, does the
*      wrap fire, and does the search repeat?
*   3. when vctrl comes back into the window, does the ramp stop?
*   4. does it then HOLD -- against the capacitor's own leakage and against
*      vctrl wandering by more than the fine loop's worst measured ripple?
*   5. and if vctrl goes below the window, does the loop push back the other
*      way?  (this is the half that a pure acquisition sweep does not have, and
*      it is what makes the hold immune to leakage rather than merely slow)
.control
pre_osdi /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/osdi/psp103.osdi
pre_osdi /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/osdi/psp103_nqs.osdi
pre_osdi /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/osdi/r3_cmc.osdi
pre_osdi /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/osdi/cap_cmomf.osdi
.endc

.lib /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerMOSlv.lib  mos_tt
.lib /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerRES.lib    res_typ
.lib /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerCAP.lib    cap_typ

.include coarse_loop.inc

.global sub!
Vsub sub! 0 0

VDD VDD 0 1.2
VSS VSS 0 0
* The chip's bias pad: 40 uA into the diode-connected reference.
Ib  0 ibias dc 40u
XMREF ibias ibias 0 0 sg13_lv_nmos w=4u l=1u ng=1 m=1 mm_ok=1

* vctrl: railed high for 150 us (unlocked -- the loop must search), then the
* measured locked value of 0.599 V, then +-40 mV of wander (more than the
* 65 mV pp measured on PRBS7), then 0.45 V, below the window, to prove the
* pull-up half works.
Vct vctrl 0 PWL
+ 0        0.10
+ 5u       1.10
+ 150u     1.10
+ 150.5u   0.599
+ 260u     0.599
+ 270u     0.639
+ 280u     0.559
+ 290u     0.639
+ 340u     0.599
+ 340.5u   0.450
+ 420u     0.450

x1 VDD VSS ibias vctrl vcoarse coarse_loop

.ic v(vcoarse)=0

.options method=gear reltol=1e-4 abstol=1e-13 vntol=1e-7

.control
save v(vcoarse) v(vctrl) v(x1.rstn) v(x1.rst) v(x1.nlo) v(x1.nhi) v(x1.vh) v(x1.vl)
tran 50n 420u

* 1. cold start
meas tran v_park   MAX v(vcoarse) FROM=0    TO=5u
* 2. search: rate over a clean stretch, and the two ends of the ramp
meas tran vc_a     FIND v(vcoarse) AT=20u
meas tran vc_b     FIND v(vcoarse) AT=40u
let search_mV_us = (vc_a - vc_b)*1e3/20
meas tran vc_lo    MIN v(vcoarse) FROM=10u  TO=150u
meas tran vc_hi    MAX v(vcoarse) FROM=10u  TO=150u
* The search has to cover the whole trim range, not a slice of it: the first
* version retraced to 0.40 V instead of 0.85 V because the retrace resistor was
* mis-solved, and searched only 0.15-0.40 -- which looks like a working loop in
* every waveform and silently cannot reach two thirds of the corners.
let search_span = vc_hi - vc_lo
* 3+4. hold, through the ripple, with no help from a switch
meas tran hold_a   FIND v(vcoarse) AT=200u
meas tran hold_b   FIND v(vcoarse) AT=340u
let hold_drift_mV = (hold_a - hold_b)*1e3
* How long an unattended hold would take to walk the whole 0.7 V trim range.
* The MOS-capacitor version of this circuit managed four milliseconds.
let hold_walk_ms  = 0.70/((hold_a-hold_b)/140e-6)/1e-3
* 5. the other direction
meas tran up_a     FIND v(vcoarse) AT=345u
meas tran up_b     FIND v(vcoarse) AT=415u
let pullup_mV_us  = (up_b - up_a)*1e3/70
print v_park vc_a vc_b search_mV_us vc_lo vc_hi search_span
print hold_a hold_b hold_drift_mV hold_walk_ms up_a up_b pullup_mV_us
print v(x1.vh)[0] v(x1.vl)[0]
* Named vectors only -- a bare `write` stores every node at every timepoint and
* has exhausted this machine's memory before.  Five vectors over 8000 rows is
* a few hundred kilobytes and is what makes the wrap debuggable at all.
wrdata ../results/coarse_tb.csv v(vcoarse) v(x1.rstn) v(x1.nlo) v(x1.nhi) v(vctrl)
quit
.endc
.end
